US04075001
In a pressure bottle were placed 6.1 g of phenyl (4-cyano-3-(dimethylamino)-5-isothiazolyl)carbamate and 25 ml of dimethylformamide. This solution was cooled to 0°, and 2.8 ml (1.9 g) of dimethylamine (previously collected in a graduated dropping funnel using a dry-ice trap) were added. The reaction mixture was heated at 80° for 4 hours, cooled to -10° and the bottle was opened. The reaction mixture was concentrated to dryness under vacuum to give a tan solid. Recrystallization of the tan solid from ethanol gave 4.0 g of 1,1-dimethyl-3-(4-cyano-3-(dimethylamino)-5-isothiazolyl)urea, m.p. 203°-204°. A second crop was collected and was recrystallized from ethanol to give 0.2 g of needles; m.p. 201°-202°. The nmr spectrum was consistent with the assigned structure.

reactant | phenyl (4-cyano-3-(dimethylamino)-5-isothiazolyl)carbamate | 6.1 g | C(#N)C=1C(=NSC1NC(OC1=CC=CC=C1)=O)N(C)C | C13H12N4O2S
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethyl-3-(4-cyano-3-(dimethylamino)-5-isothiazolyl)urea | 4.0 g | CN(C(=O)NC1=C(C(=NS1)N(C)C)C#N)C | C9H13N5OS
